US04694080
To a suspension of N-cyanomethylsaccharin (276 g) in methanol (1000 ml) was added dropwise 28% sodium methoxide (145 ml) over 30 minutes at 5°-10° C. After stirring at 5°-10° C. for 1 hour, 6N HCl (ca. 230 ml) was added dropwise maintaining the temperature at 10°-15° C. The resulting crystals were collected by filtration, washed with water and dried in vacuo at 50° C. for 16 hours to give o-carbomethoxy-N-cyanomethylbenzenesulfonamide, 264 g (78.7%).

reactant | N-cyanomethylsaccharin | 276 g | C(#N)CN1S(=O)(=O)C2=CC=CC=C2C1=O | C9H6N2O3S
reactant | sodium methoxide | 145 ml | C[O-].[Na+]
reactant | HCl | 6N, ca. 230 ml | Cl | ClH
reactant | methanol | 1000 ml | CO | CH4O
product | o-carbomethoxy-N-cyanomethylbenzenesulfonamide | C(=O)(OC)C1=C(C=CC=C1)S(=O)(=O)NCC#N | C10H10N2O4S
